US04196208
Into a mixture of 10 ml. of 1,2-dimethoxyethane and 5.8 ml. of ethanol is passed 3.65 g. hydrogen chloride gas with cooling. Then 10.2 g. of ethyl glyoxylate is added and after 24 hours at 25° C., 200 ml. of water and ice is added. The mixture is then extracted several times with ether and the extracts dried over anhydrous sodium sulfate. After evaporation of the extracts to an oil, the ethyl α-chloro-α-ethoxy-acetate so formed is added to a stirred mixture of 35.0 g. of sodium 4-(hexadecylamino)benzoate in 125 ml. of hexamethylphosphoramide. After 24 hours at 20° C., the product is obtained as white crystals by careful addition of water.

reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | ethanol | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl glyoxylate | C(C=O)(=O)OCC | C4H6O3
solvent | water | O | H2O
product | ethyl α-chloro-α-ethoxy-acetate | ClC(C(=O)OCC)OCC | C6H11ClO3
